US06831186B2
A solution of (5S,6R,7E,9E,13E,15S)-16-(4-fluorophenoxy)-5,6,15-trihydroxy-3-oxahexadeca-7,9,13-trien-11-ynoic acid, methyl ester, (0.4 g, 0.95 mmol) in methanol (20 mL) was treated with 1 N NaOH (aq) (4 mL, 4 mmol) solution and shaken and allowed to stand for three hours. The reaction mixture was then treated with saturated potassium monophosphate and poured onto an HP20 column. Elution with a gradient of methanol in water gave 0.35 g of (5S,6R,7E,9E,13E,15S)-16-(4-fluorophenoxy)-5,6,15-trihydroxy-3-oxahexadeca-7,9,13-trien-11-ynoic acid, which solidified upon standing; 1H NMR (CD3OD) δ 3.63 (m, 2H), 3.667 (m, 1H), 3.91 (m, 2H), 4.113 (s, 2H), 4.150, (t, 1H), 4.498, (m, 1H), 5.762 (dd, 1H), 5.953 (dd, 1H), 6.003 (dt, 1H), 6.202(dd, 1H), 6.380 (dd, 1H), 6.596 (dd, 1H), 6.928 (m, 2H), 6.988 (m, 2H) ppm.

reactant | (5S,6R,7E,9E,13E,15S)-16-(4-fluorophenoxy)-5,6,15-trihydroxy-3-oxahexadeca-7,9,13-trien-11-ynoic acid, methyl ester | 0.95 mmol, 0.4 g | FC1=CC=C(OC[C@H](/C=C/C#C/C=C/C=C/[C@H]([C@H](COCC(=O)OC)O)O)O)C=C1 | C22H25FO7
reactant | NaOH | 4 mmol, 1 N, 4 mL | [OH-].[Na+]
reactant | potassium monophosphate | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | methanol | 20 mL | CO | CH4O
product | (5S,6R,7E,9E,13E,15S)-16-(4-fluorophenoxy)-5,6,15-trihydroxy-3-oxahexadeca-7,9,13-trien-11-ynoic acid | 0.35 g | FC1=CC=C(OC[C@H](/C=C/C#C/C=C/C=C/[C@H]([C@H](COCC(=O)O)O)O)O)C=C1 | C21H23FO7
